US06184225B2
A mixture of 6-methoxy-4-phenoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline (565 mg, 1.55 mmol) and 2M hydrochloric acid (5 ml) was heated at 90° C. for 90 minutes and allowed to cool. The solution was neutralised with aqueous sodium hydrogen carbonate, and the water removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol/ammonia (100/8/1) to give 6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (480 mg). This material was used without further characterisation.

reactant | 6-methoxy-4-phenoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline | 1.55 mmol, 565 mg | COC=1C=C2C(=NC=NC2=CC1OCCN1CCCC1)OC1=CC=CC=C1 | C21H23N3O3
reactant | hydrochloric acid | 2M, 5 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 480 mg | COC=1C=C2C(NC=NC2=CC1OCCN1CCCC1)=O | C15H19N3O3
